US09282741B2
2-(3-Chloropyridin-2-yl)-5-methoxy-2H-pyrazole-3-carbonyl chloride
In a reaction vessel equipped with a thermometer, septum, nitrogen inlet and stirring bar 1-(3-chloro-2-pyridyl)-3-trifloromethyl-1H-pyrazole (2.0 g, 0.01 mol) were dissolved in dry 1,2-dimethoxyethane (15 mL) and cooled to 0° C. By means of a syringe isopropyl magnesium chloride (11.4 mL of a 2 M solution in tetrahydrofuran) was added dropwise with stirring, while cooling the vessel with an ice bath and keeping the internal temperature below 5° C. After 3 h at this temperature a 20% (w/w) solution of phosgene in toluene (17 mL) were added dropwise with stirring. The mixture was allowed to warm to 23° C. and stirred for further 1 h at room temperature. The thus obtained reaction mixture was evaporated to dryness, redissolved in toluene and stirred for further 30 min. at 50° C. Solids were removed by filtration and washed with toluene. The combined filtrates were evaporated to dryness to yield 0.63 g of the title compound which was used in the next step without further purification.

reactant | 1-(3-chloro-2-pyridyl)-3-trifloromethyl-1H-pyrazole | 0.01 mol, 2.0 g | ClC=1C(=NC=CC1)N1N=C(C=C1)C(F)(F)F | C9H5ClF3N3
reactant | isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 1,2-dimethoxyethane | 15 mL | COCCOC | C4H10O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | toluene | 17 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Chloropyridin-2-yl)-5-methoxy-2H-pyrazole-3-carbonyl chloride | 0.63 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)Cl)OC | C10H7Cl2N3O2
